US05648373
8-(1,4,5-Triphenylimidazol-2-yloxy)octanoic acid
1,4,5-Triphenyl-2-chloroimidazole was treated with 8-hydroxyoctanoic acid and sodium hydride in dimethylformamide to give the title compound, m.p. 158°-159° C., Found: C, 75.3; H, 6.6;N, 6.0%; C29H30N2O3.0.43H2O Requires: C, 75.3;H, 6.7; N, 6.0%

reactant | 1,4,5-Triphenyl-2-chloroimidazole | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)Cl | C21H15ClN2
reactant | 8-hydroxyoctanoic acid | OCCCCCCCC(=O)O | C8H16O3
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-(1,4,5-Triphenylimidazol-2-yloxy)octanoic acid | C1(=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)OCCCCCCCC(=O)O | C29H30N2O3
